US06162791
A mixture of N-(3-chloromethyl-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester (0.45 g, 1.2 mmol), 1-(2-pyridyl)piperazine (0.62 mL, 4 mmol), triethylamine (1.2 mL, 8 mmol) and tetra-butylammonium bromide (100 mg) in DMF (20 mL) was stirred at room temperature for 24 h. The reaction mixture was diluted with water and ethyl acetate. The organic layer was collected, washed with water, dried (sodium sulfate), filtered and concentrated in vacuo to give a light yellow oil. Purification by column chromatography on silica gel using a solvent mixture of 5% methanol in dichloromethane afforded N-{3-[1-[4-(2-pyridyl)piperazinyl]-methyl]-[1,2,4]thiadiazol-5-yl}-L-leucyl-L-proline methyl ester as a white foam (0.55 g, 91.7 %). 1H-NMR (CDCl3) δ8.19 (m, 1H), 7.48-7.52 (m, 1H), 7.14 (br. m, 1H, NH), 6.64-6.67 (m, 2H), 4.67 (m, 1H, CHCO), 4.57 (dd, J=8.4 and 4.6 Hz, 1H, CHCO2), 3.92 (m, 1H, NCHpro), 3.62-3.78 (m, 1OH, OMe, NCHpro, N=CCH2, 2NCH2), 2.83 (m, 4H, 2NCH2), 1.62-2.30 (m, 6H, 2CH2 pro and CH2), 0.90-1.03 (2d, J=6.5 and 6.6 Hz, 7H, 2Me and 1CH); MS (m/z) 502 (M+ +1), 459, 408, 382, 300, 253, 225, 176, 147, 121, 95.

reactant | N-(3-chloromethyl-[1,2,4]thiadiazol-5-yl)-L-leucyl-L-proline methyl ester | 1.2 mmol, 0.45 g | COC([C@H]1N(CCC1)C([C@@H](NC1=NC(=NS1)CCl)CC(C)C)=O)=O | C15H23ClN4O3S
reactant | 1-(2-pyridyl)piperazine | 4 mmol, 0.62 mL | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | triethylamine | 8 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
catalyst | tetra-butylammonium bromide | 100 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-[1-[4-(2-pyridyl)piperazinyl]-methyl]-[1,2,4]thiadiazol-5-yl}-L-leucyl-L-proline methyl ester | 0.55 g, 91.7 % | COC([C@H]1N(CCC1)C([C@@H](NC1=NC(=NS1)CN1CCN(CC1)C1=NC=CC=C1)CC(C)C)=O)=O | C24H35N7O3S
